US07592453B2
4-Cyano-3-methoxybenzoic acid
To a solution (37 ml) of methyl 4-cyano-3-methoxybenzoate (700 mg, 3.66 mmol) in methanol was added 1M aqueous sodium hydroxide solution (37 ml), and the mixture was stirred overnight at room temperature. The solvent was evaporated under reduced pressure, the residue was dissolved in water, and the mixture was washed with diethyl ether. The aqueous layer was neutralized with 1M hydrochloric acid and extracted with dichloromethane. The extract was dried over anhydrous MgSO4 and concentrated under reduced pressure to give the title compound (690 mg, ca. 100%) as a white solid.

reactant | methyl 4-cyano-3-methoxybenzoate | 3.66 mmol, 37 ml, 700 mg | C(#N)C1=C(C=C(C(=O)OC)C=C1)OC | C10H9NO3
reactant | sodium hydroxide | 1M, 37 ml | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 4-Cyano-3-methoxybenzoic acid | 690 mg, ca. 100% | C(#N)C1=C(C=C(C(=O)O)C=C1)OC | C9H7NO3
